US08937176B2
7.05.01 2-(1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanone
50 mg (1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetic acid was dissolved in 2 mL DMF. 100 mg PFTU and 60 μL DIPEA were added to this solution and the mixture was stirred for 10 min at RT. 160 mg 2-piperazin-1-yl-pyrimidine was added and the reaction was stirred over night. Then, potassium carbonate solution (5%) and dichlormethane were added, the organic layer was separated and the solvent was removed. The residue was purified by HPLC and crystallized with diisopropylether to give 55 mg of the desired compound.

reactant | (1-ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-acetic acid | 50 mg | C(C)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C)CC(=O)O | C14H15FN2O2
reactant | DIPEA | 60 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-piperazin-1-yl-pyrimidine | 160 mg | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichlormethane | ClCCl | CH2Cl2
product | 2-(1-Ethyl-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl)-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanone | 55 mg | C(C)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C)CC(=O)N1CCN(CC1)C1=NC=CC=N1 | C22H25FN6O
